US05011825
H-Arg-Ile-Asp(OtBu)-Arg-Ile-ol
H-Arg-Ile-Asp(OtBu)-Arg-Ile-ol triacetate Amorphous substance, [α]D23 =-31.7° (c=1 in water).

reactant | H-Arg-Ile-Asp(OtBu)-Arg-Ile-ol triacetate | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)CO.CC(=O)O.CC(=O)O.CC(=O)O
solvent | water | O | H2O
product | H-Arg-Ile-Asp(OtBu)-Arg-Ile-ol | N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)CO | C32H63N11O7
